US07291631B2
A mixture of 2-{[bis-(3-methyl-pyridin-2-ylmethyl)-amino]-methyl}-5-cyano-benzoic acid methyl ester (0.37 g, 0.92 mmol) in NH3 saturated MeOH (10 mL) was treated with Raney nickel (0.50 g), and placed under 50 psi H2 on a Parr shaker, for 18 h. The mixture was filtered through celite and the cake was washed with methanol. The eluant was concentrated under reduced pressure. Purification of the crude material by column chromatography on silica gel (10:1:1 CH2Cl2-MeOH—NH4OH) provided 0.177 g (47%) of 5-aminomethyl-2-{[bis-(3-methyl-pyridin-2-ylmethyl)-amino]-methyl}-benzoic acid methyl ester as a yellow oil.

reactant | 2-{[bis-(3-methyl-pyridin-2-ylmethyl)-amino]-methyl}-5-cyano-benzoic acid methyl ester | 0.92 mmol, 0.37 g | COC(C1=C(C=CC(=C1)C#N)CN(CC1=NC=CC=C1C)CC1=NC=CC=C1C)=O | C24H24N4O2
solvent | NH3 | 10 mL | N | H3N
catalyst | Raney nickel | 0.50 g | [Ni] | Ni
product | 5-aminomethyl-2-{[bis-(3-methyl-pyridin-2-ylmethyl)-amino]-methyl}-benzoic acid methyl ester | 0.177 g, 47% | COC(C1=C(C=CC(=C1)CN)CN(CC1=NC=CC=C1C)CC1=NC=CC=C1C)=O | C24H28N4O2
